US08383644B2
(S)-2-Amino-3-{(S)-2-[3-(3,4-dichloro-benzyloxy)-phenyl]-2,3-dihydro benzo[1,4]dioxin-6-yl}-propionic acid methyl ester hydrochloride (0.35 g) was taken in 2 mL of EtOAc and cooled to 0° C., NaHCO3 solution (1 mL) and 4-nitrobenzensulfonyl chloride (178 mg) were added and stirred for 10 minutes. Reaction was stirred at room temperature for 4 hours. EtOAc layer was separated and washed with water and brine, and then dried (Na2SO4), filtered and evaporated. The residue was purified by silica gel column (10% EtOAc in hexanes to 50% EtOAc in hexanes) to get pure (S)-3-{(S)-2-[3-(3,4-dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-2-(4-nitro-benzenesulfonylamino)-propionic acid methyl ester (0.37 g). 1H NMR (400 MHz, acetone-d6): 8.33 (m, 2H), 7.89 (m, 2H), 7.73 (d, 1H), 7.62 (d, 1H), 7.37-7.53 (m, 3H), 7.04-7.21 (m, 3H), 6.64-6.72 (m, 3H), 5.22 (s, 2H), 5.09 (m, 1H), 4.35 (m, 1H), 4.21 (m, 1H), 3.97 (m, 1H), 3.61 (s, 3H), 3.03 (m, 1H), 2.76 (m, 1H).

reactant | (S)-2-Amino-3-{(S)-2-[3-(3,4-dichloro-benzyloxy)-phenyl]-2,3-dihydro benzo[1,4]dioxin-6-yl}-propionic acid methyl ester hydrochloride | 0.35 g | Cl.COC([C@H](CC1=CC2=C(O[C@H](CO2)C2=CC(=CC=C2)OCC2=CC(=C(C=C2)Cl)Cl)C=C1)N)=O
reactant | NaHCO3 | 1 mL | C(=O)(O)[O-].[Na+]
reactant | 4-nitrobenzensulfonyl chloride | 178 mg | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
product | (S)-3-{(S)-2-[3-(3,4-dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-2-(4-nitro-benzenesulfonylamino)-propionic acid methyl ester | 0.37 g | COC([C@H](CC1=CC2=C(O[C@H](CO2)C2=CC(=CC=C2)OCC2=CC(=C(C=C2)Cl)Cl)C=C1)NS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])=O | C31H26Cl2N2O9S
